### PR TITLE
feat: Colors alternate in a bicolored path

### PR DESCRIPTION
**Pull request by IvanRenison**
Add the theorem `pathGraph_G_Hom_coloring` saying that if a graph has a homorphism from a pathGraph then the colors alternate in the path.
Specifically, the theorem ask for the first element of the path to be colored by true, and in the `pathGraph_G_Hom_coloring'` it ask for the first element to be colored by false.

---

- [x] depends on: #11192
- [ ] depends on: #11787

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by IvanRenison** [comment]
I plan to use this theorems for (first) defining a cyclic graph and then proving it's chromatic number (in particular I will use this theorems for the odd case of the cyclic graph)

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 1]
```diff
@@ -48,4 +48,76 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
   · simpa only [pathGraph_two_eq_top, chromaticNumber_top] using
       hc.chromaticNumber_mono_of_embedding (pathGraph_two_embedding n h)
 
+/-- In a bicolored graph colors alternate on every path -/
+theorem pathGraph_G_Hom_coloring {α} (G : SimpleGraph α) (c : G.Coloring Bool) {n : ℕ} (hn : 1 ≤ n)
+    (hom : pathGraph n →g G) (hc0 : c (hom ⟨0, hn⟩) = true) (u : Fin n) :
+    c (hom u) = (u.val % 2 = 0) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:54]: Using free variables in lemma names is a very bad idea!

Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:54]: I'm not sure you should use `Bool`. The best would be to use an arbitrary type with two elements, but I can see how that would be annoying to use. At least I would suggest using `Prop` instead, as your statement would then be `c (hom u) ↔ u.val % 2 = 0`.

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 2]
```diff
@@ -48,4 +48,76 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
...
+          h_new_hom ⟨n-1, Nat.sub_lt hn' Nat.one_pos⟩
+        have h_c_last : c (hom last) = ((n - 1) % 2 ≠ 0) := by
+          rw [Bool.eq_not_iff.mpr (Coloring.valid c hGadj).symm]
+          simp [h_c_prev_last.symm]
+        simp [Fin.eq_mk_iff_val_eq.mpr hun, h_c_last]
+        rw [← @Nat.sub_add_cancel n 1 hn']
+        apply (Nat.succ_mod_two_eq_zero_iff).symm
+
+-- What name shuld this have?
+theorem aux2 {α} (p : Bool) (x y : α) (h : ((!p) = true) = (x = y)) : (p = true) = (x ≠ y) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:94]: ... and that would spare you having to prove this

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 3]
```diff
@@ -121,4 +121,20 @@ theorem pathGraph_two_eq_top : pathGraph 2 = ⊤ := by
   ext u v
   fin_cases u <;> fin_cases v <;> simp [pathGraph, ← Fin.coe_covby_iff, Nat.covby_iff_succ_eq]
 
+/-- Hommorphism from smaller path graph to bigger path graph· -/
+def pathGraph_self_Hom {n m : ℕ} (hnm : n ≤ m) : pathGraph n →g pathGraph m where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean:125]: Maybe
```suggestion
protected def Hom.pathGraph {n m : ℕ} (hnm : n ≤ m) : pathGraph n →g pathGraph m where
```
is a better name?

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 4]
```diff
@@ -121,4 +121,20 @@ theorem pathGraph_two_eq_top : pathGraph 2 = ⊤ := by
...
+  toFun v := ⟨v.val, trans v.is_lt hnm⟩
+  map_rel' := by simp [pathGraph_adj]
+
+theorem pathGraph_self_Hom_val {n m : ℕ} (hnm : n ≤ m) (u : Fin n) :
+    (pathGraph_self_Hom hnm u).val = u.val := rfl
+
+/-- Smaller hommorphism from path graph to arbitrary graph· -/
+def pathGraph_smaller_Hom {α} (G : SimpleGraph α) {n : ℕ} (hom : pathGraph n →g G) (m : ℕ)
+    (hmn : m ≤ n) : pathGraph m →g G := Hom.comp hom (pathGraph_self_Hom hmn)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean:134]: I don't think we want this since it's a very easy combination of simpler definitions.

**Comment by IvanRenison** [comment]
Very good suggestions, I will apply them.
Are you going to add more comments or did you forgot to change the label to awaiting-author?

**Comment by YaelDillies** [comment]
The labels are loosely used (they are mostly there for when the PR has been without activity for some time), but yes I can mark it `awaiting-author`.

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 5]
```diff
@@ -49,9 +49,9 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
       hc.chromaticNumber_mono_of_embedding (pathGraph_two_embedding n h)
 
 /-- In a bicolored graph colors alternate on every path -/
-theorem pathGraph_G_Hom_coloring {α} (G : SimpleGraph α) (c : G.Coloring Bool) {n : ℕ} (hn : 1 ≤ n)
-    (hom : pathGraph n →g G) (hc0 : c (hom ⟨0, hn⟩) = true) (u : Fin n) :
-    c (hom u) = (u.val % 2 = 0) := by
+theorem pathGraph_G_Hom_coloring {α} (G : SimpleGraph α) (c : G.Coloring Prop) {n : ℕ} (hn : 1 ≤ n)
+    (hom : pathGraph n →g G) (hc0 : c (hom ⟨0, hn⟩) ↔ True) (u : Fin n) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:53]:
```suggestion
    (hom : pathGraph n →g G) (hc0 : c (hom ⟨0, hn⟩)) (u : Fin n) :
```

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 6]
```diff
@@ -49,9 +49,9 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
...
+    c (hom u) ↔ (u.val % 2 = 0) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:54]:
```suggestion
    c (hom u) ↔ Even u.val := by
```

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 7]
```diff
@@ -49,9 +49,9 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
       hc.chromaticNumber_mono_of_embedding (pathGraph_two_embedding n h)
 
 /-- In a bicolored graph colors alternate on every path -/
-theorem pathGraph_G_Hom_coloring {α} (G : SimpleGraph α) (c : G.Coloring Prop) {n : ℕ} (hn : 1 ≤ n)
-    (hom : pathGraph n →g G) (hc0 : c (hom ⟨0, hn⟩) ↔ True) (u : Fin n) :
-    c (hom u) ↔ (u.val % 2 = 0) := by
+theorem pathGraph_Hom_coloring {α} (G : SimpleGraph α) (c : G.Coloring Prop) {n : ℕ} (hn : 1 ≤ n)
+    (hom : pathGraph n →g G) (hc0 : c (hom ⟨0, hn⟩)) (u : Fin n) :
+    c (hom u) ↔ (Even u.val) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:54]:
```suggestion
    c (hom u) ↔ Even u.val := by
```

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean (hunk 3 above)
Comment (IvanRenison) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean:125]: I'm not sure of how `protected` works in these case, but if I put the def as `protected def Hom.pathGraph` when I try to use it in `ConcreteColorings.lean` as `Hom.pathGraph` I get these error:
```
invalid field notation, type is not of the form (C ...) where C is a constant
  Hom
has type
  SimpleGraph ?m.141359 → SimpleGraph ?m.141360 → Type (max ?u.141358 ?u.141357)
```
I tried several ways of using it but non of them worked

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 8]
```diff
@@ -93,7 +93,7 @@ theorem pathGraph_Hom_coloring {α} (G : SimpleGraph α) (c : G.Coloring Prop) {
 
 theorem pathGraph_Hom_coloring' {α} (G : SimpleGraph α) (c : G.Coloring Prop) {n : ℕ} (hn : 1 ≤ n)
     (hom : pathGraph n →g G) (hc0 : c (hom ⟨0, hn⟩) ↔ False) (u : Fin n) :
-    c (hom u) ↔ (¬Even u.val) := by
+    c (hom u) ↔ ¬Even u.val := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:96]:
```suggestion
    c (hom u) ↔ Odd u.val := by
```

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean:125]: There's a slight chance it is broken, but the more likely explanation is that you did not provide the correct number of arguments.

Comment (IvanRenison) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean]: Yes, provably it was something like that becase when I tried again it worked

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 9]
```diff
@@ -121,4 +121,12 @@ theorem pathGraph_two_eq_top : pathGraph 2 = ⊤ := by
   ext u v
   fin_cases u <;> fin_cases v <;> simp [pathGraph, ← Fin.coe_covby_iff, Nat.covby_iff_succ_eq]
 
+/-- Hommorphism from smaller path graph to bigger path graph· -/
+protected def Hom.pathGraph {n m : ℕ} (hnm : n ≤ m) : pathGraph n →g pathGraph m where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean:125]: This should automatically generate your next lemma
```suggestion
@[simps]
protected def Hom.pathGraph {n m : ℕ} (hnm : n ≤ m) : pathGraph n →g pathGraph m where
```
You can check that it does by doing 
```suggestion
@[simps?]
protected def Hom.pathGraph {n m : ℕ} (hnm : n ≤ m) : pathGraph n →g pathGraph m where
```

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 10]
```diff
@@ -48,4 +48,66 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
...
+        exact Nat.even_add_one.symm
+
+theorem pathGraph_Hom_coloring' {α} (G : SimpleGraph α) (c : G.Coloring Prop) {n : ℕ} (hn : 1 ≤ n)
+    (hom : pathGraph n →g G) (hc0 : ¬c (hom ⟨0, hn⟩)) (u : Fin n) :
+    c (hom u) ↔ Odd u.val := by
+  let c' : G.Coloring Prop := Coloring.mk (fun v ↦ ¬c v) <| by
+    intro v w
+    intro (h : G.Adj v w)
+    simp
+    rw [not_iff_not]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:101]: This should be a standalone definition:
```
def Coloring.map (f : α ↪ β) : G.Coloring α → G.Coloring β
```
which should itself come from
```
def Embedding.top (f : α ↪ β) : (⊤ : SimpleGraph α) ↪g (⊤ : SimpleGraph β)
```

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 11]
```diff
@@ -48,4 +48,66 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
   · simpa only [pathGraph_two_eq_top, chromaticNumber_top] using
       hc.chromaticNumber_mono_of_embedding (pathGraph_two_embedding n h)
 
+/-- In a bicolored graph colors alternate on every path -/
+theorem pathGraph_Hom_coloring {α} (G : SimpleGraph α) (c : G.Coloring Prop) {n : ℕ} (hn : 1 ≤ n)
+    (hom : pathGraph n →g G) (hc0 : c (hom ⟨0, hn⟩)) (u : Fin n) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:53]: Does it work in your application to do
```suggestion
theorem pathGraph_Hom_coloring {α} (G : SimpleGraph α) (c : G.Coloring Prop) {n : ℕ}
    (hom : pathGraph (n + 1) →g G) (hc0 : c (hom ⊥)) (u : Fin (n + 1)) :
```
It would be more idiomatic. If you can't, note that you can at least do
```suggestion
theorem pathGraph_Hom_coloring {α} (G : SimpleGraph α) (c : G.Coloring Prop) {n : ℕ}
    {u : Fin n} (hom : pathGraph n →g G) (hc0 : c (hom ⟨0, bot_le.trans_lt u.2⟩)) :
```

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 12]
```diff
@@ -48,4 +48,66 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
...
+    c (hom u) ↔ Even u.val := by
+  induction n with
+  | zero => exact (Nat.not_succ_le_zero 0 hn).elim
+  | succ n ih =>
+    have hn_cases : n = 0 ∨ 1 ≤ n := or_iff_not_imp_right.mpr Nat.eq_zero_of_not_pos
+    apply Or.elim hn_cases
+    · intro (hn' : n = 0)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:60]: Instead of doing cases here, you could add one case to the induction

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean (hunk 10 above)
Comment (IvanRenison) [reply Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:101]: In `Coloring.lean` there is a very similar one: `recolorOfEmbedding {α β : Type*} (f : α ↪ β) : G.Coloring α ↪ G.Coloring`, I will try to use it

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 13]
```diff
@@ -7,6 +7,7 @@ import Mathlib.Combinatorics.SimpleGraph.Prod
 import Mathlib.Data.Fin.SuccPred
 import Mathlib.Data.ZMod.Basic
 import Mathlib.Order.SuccPred.Relation
+import Mathlib.Tactic.Simps.Basic
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean:10]: I don't think you need this import
```suggestion
```

Comment (IvanRenison) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean:10]: Oops, I was trying things and I forgot to delete it

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 14]
```diff
@@ -94,12 +94,8 @@ theorem pathGraph_Hom_coloring {α} (G : SimpleGraph α) (c : G.Coloring Prop) {
 theorem pathGraph_Hom_coloring' {α} (G : SimpleGraph α) (c : G.Coloring Prop) {n : ℕ} (hn : 1 ≤ n)
     (hom : pathGraph n →g G) (hc0 : ¬c (hom ⟨0, hn⟩)) (u : Fin n) :
     c (hom u) ↔ Odd u.val := by
-  let c' : G.Coloring Prop := Coloring.mk (fun v ↦ ¬c v) <| by
-    intro v w
-    intro (h : G.Adj v w)
-    simp
-    rw [not_iff_not]
-    exact eq_iff_iff.not.mp (c.valid h)
+  let neg : Prop ↪ Prop := ⟨Not, fun a b ↦ (by simp [propext]; exact not_iff_not.mp)⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:97]: Can you separate that to a lemma
```
lemma not_injective : Injective Not
```

Comment (IvanRenison) [reply Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:97]: In what file should I put it? In `Mathlib/Init/Logic.lean`?

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 15]
```diff
@@ -49,61 +49,47 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
...
-          have h := eq_iff_iff.not.mp (c.valid hGadj).symm
-          rw [h_c_prev_last] at h
-          exact (not_iff_comm.mp (not_iff.mp h)).symm
-        simp [Fin.eq_mk_iff_val_eq.mpr hun, h_c_last]
-        rw [← @Nat.sub_add_cancel n 1 hn']
-        exact Nat.even_add_one.symm
+    let new_hom : pathGraph (n + 1) →g G := hom.comp (Hom.pathGraph ((n + 1).le_add_right 1))
+    have h_new_hom := ih new_hom hc0
+    have hu : u.val < n + 1 ∨ u.val = n + 1 := le_iff_lt_or_eq.mp u.is_le
+    apply Or.elim hu
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:64]:
```suggestion
    obtain hu | hu := u.is_le.lt_or_eq
```

File: Mathlib/Logic/Lemmas.lean [hunk 16]
```diff
@@ -73,3 +74,8 @@ lemma Prop.exists {f : Prop → Prop} : (∃ p, f p) ↔ f True ∨ f False :=
   ⟨fun ⟨p, h⟩ ↦ by refine' (em p).imp _ _ <;> intro H <;> convert h <;> simp [H],
     by rintro (h | h) <;> exact ⟨_, h⟩⟩
 #align Prop.exists Prop.exists
+
+lemma Function.injective_Not : Function.Injective Not := by
+  intro a b
+  simp [propext]
+  exact not_iff_not.mp
```
Comment (YaelDillies) [inline Mathlib/Logic/Lemmas.lean:81]:
```suggestion
open Function -- just after the module doc

lemma injective_not : Injective Not := fun _ _ ↦ by simpa using not_iff_not.1
```

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 17]
```diff
@@ -7,6 +7,7 @@ import Mathlib.Combinatorics.SimpleGraph.Coloring
 import Mathlib.Combinatorics.SimpleGraph.Hasse
 import Mathlib.Data.Nat.Parity
 import Mathlib.Data.ZMod.Basic
+import Mathlib.Logic.Lemmas
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:10]: Are you sure you need those new imports?

File: Mathlib/Logic/Lemmas.lean [hunk 18]
```diff
@@ -3,6 +3,7 @@ Copyright (c) 2022 Yaël Dillies. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Yaël Dillies
 -/
+import Mathlib.Init.Function
```
Comment (YaelDillies) [inline Mathlib/Logic/Lemmas.lean:6]: Same here

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean (hunk 17 above)
Comment (IvanRenison) [reply Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:10]: It's importing `injective_not`, if I delete it I get the error: `unknown identifier 'injective_not'`

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 19]
```diff
@@ -80,7 +80,7 @@ theorem pathGraph_Hom_coloring {α} (G : SimpleGraph α) (c : G.Coloring Prop) {
 theorem pathGraph_Hom_coloring' {α} (G : SimpleGraph α) (c : G.Coloring Prop) {n : ℕ}
     (hom : pathGraph (n + 1) →g G) (hc0 : ¬c (hom ⊥)) (u : Fin (n + 1)) :
     c (hom u) ↔ Odd u.val := by
-  let c' : G.Coloring Prop := (recolorOfEmbedding G ⟨Not, Function.injective_Not⟩) c
+  let c' : G.Coloring Prop := (recolorOfEmbedding G ⟨Not, injective_not⟩) c
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:83]:
```suggestion
  let c' : G.Coloring Prop := recolorOfEmbedding G ⟨Not, injective_not⟩ c
```

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 20]
```diff
@@ -48,4 +49,44 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
...
 
+/-- In a bicolored graph colors alternate on every path -/
+theorem pathGraph_Hom_coloring {α} (G : SimpleGraph α) (c : G.Coloring Prop) {n : ℕ}
+    (hom : pathGraph (n + 1) →g G) (hc0 : c (hom ⊥)) (u : Fin (n + 1)) :
+    c (hom u) ↔ Even u.val := by
+  induction n with
+  | zero =>
+    have hu : u = ⊥ := eq_bot_of_bot_eq_top (by decide) u
+    simp [hu]
+    exact hc0
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:60]:
```suggestion
  | zero => simpa [eq_bot_of_bot_eq_top (by decide) u] using hc0
```

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 21]
```diff
@@ -48,4 +49,44 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
...
+  | succ n ih =>
+    let new_hom : pathGraph (n + 1) →g G := hom.comp (Hom.pathGraph ((n + 1).le_add_right 1))
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:62]:
```suggestion
    let new_hom : pathGraph (n + 1) →g G := hom.comp (.pathGraph (n + 1).le_succ)
```

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 22]
```diff
@@ -48,4 +49,44 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
...
+    have h_new_hom := ih new_hom hc0
+    obtain (hu : u.val < n + 1) | (hu : u.val = n + 1) := u.is_le.lt_or_eq
+    · exact h_new_hom ⟨u.val, hu⟩
+    · -- c (hom u) ↔ Even ↑u
+      let last : Fin (n + 2) := ⟨n + 1, Nat.lt.base (n + 1)⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:67]: This local definition already exists
```suggestion
      let last : Fin (n + 2) := Fin.last (n + 1)
```

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 23]
```diff
@@ -48,4 +49,44 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
...
+      have hpgadj : (pathGraph (n + 2)).Adj prev_last last := by
+        simp [pathGraph_adj]
+      have hGadj : G.Adj (hom prev_last) (hom last) := hom.map_rel hpgadj
+      have h_c_prev_last : c (hom prev_last) ↔ Even n := h_new_hom ⟨n, Nat.lt.base n⟩
+      have h_c_last : c (hom last) ↔ ¬Even n := by
+        have h := eq_iff_iff.not.mp (c.valid hGadj).symm
+        rw [h_c_prev_last] at h
+        exact (not_iff_comm.mp (not_iff.mp h)).symm
+      simp [Fin.eq_mk_iff_val_eq.mpr hu, h_c_last]
+      exact Nat.even_add_one.symm
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:78]: We usually do not indent the main case
```suggestion
    -- c (hom u) ↔ Even ↑u
    let last : Fin (n + 2) := ⟨n + 1, Nat.lt.base (n + 1)⟩
    let prev_last : Fin (n + 2) := ⟨n, Nat.sub_lt_succ (n + 1) 1⟩
    have hpgadj : (pathGraph (n + 2)).Adj prev_last last := by
      simp [pathGraph_adj]
    have hGadj : G.Adj (hom prev_last) (hom last) := hom.map_rel hpgadj
    have h_c_prev_last : c (hom prev_last) ↔ Even n := h_new_hom ⟨n, Nat.lt.base n⟩
    have h_c_last : c (hom last) ↔ ¬Even n := by
      have h := eq_iff_iff.not.mp (c.valid hGadj).symm
      rw [h_c_prev_last] at h
      exact (not_iff_comm.mp (not_iff.mp h)).symm
    simp [Fin.eq_mk_iff_val_eq.mpr hu, h_c_last]
    exact Nat.even_add_one.symm
```

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 24]
```diff
@@ -48,4 +49,39 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
...
+    (hom : pathGraph (n + 1) →g G) (hc0 : ¬c (hom ⊥)) (u : Fin (n + 1)) :
+    c (hom u) ↔ Odd u.val := by
+  let c' : G.Coloring Prop := recolorOfEmbedding G ⟨Not, injective_not⟩ c
+  have hc'c : ∀ (a : α), c' a ↔ ¬c a := fun a ↦ Iff.rfl
+  have hcc' : ∀ (a : α), c a ↔ ¬c' a := fun a ↦ iff_not_comm.mp (hc'c a)
+  have hc'0 : c' (hom ⊥) := by
+    rw [hc'c]
+    exact hc0
+  rw [hcc', Nat.odd_iff_not_even]
+  exact Iff.not (pathGraph_Hom_coloring G c' hom hc'0 u)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:85]: Something like this ought to work
```suggestion
  simpa using (pathGraph_Hom_coloring G (recolorOfEmbedding G ⟨_, injective_not⟩ c) hom hc u).not
```

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 25]
```diff
@@ -48,4 +49,39 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
   · simpa only [pathGraph_two_eq_top, chromaticNumber_top] using
       hc.chromaticNumber_mono_of_embedding (pathGraph_two_embedding n h)
 
+/-- In a bicolored graph colors alternate on every path -/
+theorem pathGraph_Hom_coloring {α} (G : SimpleGraph α) (c : G.Coloring Prop) {n : ℕ}
+    (hom : pathGraph (n + 1) →g G) (hc0 : c (hom ⊥)) (u : Fin (n + 1)) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:54]: I think it will be a bit clearer if you referred to this as a path.

**Review by YaelDillies — COMMENTED** [review]
General question: Why use maps from `pathGraph n` rather than a `walk`? We should be consistent in what we use, and I think that means using `walk` (@kmill, thoughts?). Could you show that `w : G.walk` gives a `pathGraph w.length →g G` and that `p : pathGraph n →g G` gives a `G.walk`?

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 26]
```diff
@@ -130,4 +131,33 @@ protected def Hom.pathGraph {n m : ℕ} (hnm : n ≤ m) : pathGraph n →g pathG
 protected theorem Hom.pathGraph_val {n m : ℕ} (hnm : n ≤ m) (u : Fin n) :
     (Hom.pathGraph hnm u).val = u.val := rfl
 
+
+/-- Convert a homomrfism from a pathGraph to a walk -/
+def pathGraph_hom_to_walk {α} (G : SimpleGraph α) {n : ℕ} (hom : pathGraph (n + 1) →g G) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean:136]:
```suggestion
def Walk.ofPathGraphHom {α} (G : SimpleGraph α) {n : ℕ} (hom : pathGraph (n + 1) →g G) :
```

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 27]
```diff
@@ -155,7 +155,7 @@ def pathGraph_hom_to_walk {α} (G : SimpleGraph α) {n : ℕ} (hom : pathGraph (
       exact hom.map_rel hpgadj
     exact Walk.cons hGadj w
 
--- def walk_to_pathGraph_hom {α} (G : SimpleGraph α) {u v : α} (w : G.Walk u v) :
+-- def pathGraphHomOfWalk {α} (G : SimpleGraph α) {u v : α} (w : G.Walk u v) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean:158]:
```suggestion
-- def Walk.toPathGraphHom {α} (G : SimpleGraph α) {u v : α} (w : G.Walk u v) :
```

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 28]
```diff
@@ -155,7 +155,7 @@ def pathGraph_hom_to_walk {α} (G : SimpleGraph α) {n : ℕ} (hom : pathGraph (
...
 --     pathGraph w.length →g G where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean:159]: Hint:
```suggestion
-- def pathGraphHomOfWalk {α} (G : SimpleGraph α)
      ∀ {u v : α} (w : G.Walk u v), pathGraph w.length →g G
    | nil := sorry
    ...
```

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 29]
```diff
@@ -156,7 +156,7 @@ def Walk.ofPathGraphHom {α} (G : SimpleGraph α) {n : ℕ} (hom : pathGraph (n
     exact Walk.cons hGadj w
 
 /-- Given a walk get a homomrfism from a pathGraph -/
-def Walk.toPathGraphHom {α} (G : SimpleGraph α) :
+theorem Walk.toPathGraphHom (G : SimpleGraph α) :
     ∀ {u v : α} (w : G.Walk u v), ∃(hom : pathGraph (w.length + 1) →g G), hom ⊥ = v ∧ hom ⊤ = u
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean:160]: Are you not managing to define it?

Comment (IvanRenison) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean:160]: I wanted to have the homomorphism and a prof that hom ⊥ = v ∧ hom ⊤ for the recursive case so I used the ∃

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean:160]: Do
```suggestion
def Walk.toPathGraphHomAux (G : SimpleGraph α) :
    ∀ {u v : α} (w : G.Walk u v), Σ' (hom : pathGraph (w.length + 1) →g G), hom ⊥ = v ∧ hom ⊤ = u
```
then 😉

**Comment by kmill** [comment]
@YaelDillies These seem to be all the variants we could consider, and we'd want an equivalence between each pair in each variant. Many of these have versions where you construct a walk or homomorphism from the other without the sigma type, since you can figure out the correct endpoints, but notice that there are a bunch of annoying dependent type issues. I'm not sure what the "right" implementation is for anything but the first, and maybe the fourth, but maybe we should define a type for each possibility?
```lean
-- Walk between two specific vertices:
G.Walk u v
Σ n, {φ : pathGraph (n + 1) →g G // φ 0 = u ∧ φ n = v}

-- Walk between two unspecified vertices:
Σ u v, G.Walk u v
Σ n, pathGraph (n + 1) →g G

-- Walk of a particular length between two specific vertices
{p : G.Walk u v // p.length = n}
{φ : pathGraph (n + 1) →g G // φ 0 = u ∧ φ n = v}

-- Walk of a particular length between two unspecified vertices
Σ u v, {p : G.Walk u v // p.length = n}
pathGraph (n + 1) →g G
```

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 30]
```diff
@@ -235,19 +234,24 @@ theorem Walk.toPathGraphHom (G : SimpleGraph α) :
...
+          exact congrArg hom' rfl
+        · intro h_
+          have htop : (⊤ : Fin (p.length + 2)).val = p.length + 1 := rfl
+          rw [htop] at h_
+          apply (Nat.lt_irrefl (p.length + 1)).elim h_
+      exact ⟨hom, hhom⟩
+
+def Walk.toPathGraphHom (G : SimpleGraph α) :
+    ∀ {u v : α} (w : G.Walk u v), pathGraph (w.length + 1) →g G :=
+  fun {u v} w => (@Walk.toPathGraphHomAux α G u v w).fst
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean:256]:
```suggestion
def Walk.toPathGraphHom (G : SimpleGraph α) {u v : α} (w : G.Walk u v) :
    pathGraph (w.length + 1) →g G := w.toPathGraphHomAux.1
```
and you should also add `Walk.toPathGraphHom_bot : w.toPathGraphHom ⊥ = v := w.toPathGraphHomAux.2.1` and `Walk.toPathGraphHom_top : w.toPathGraphHom ⊤ = v := w.toPathGraphHomAux.2.2`

**Review by YaelDillies — COMMENTED** [review]
Can you show your two new constructions are inverse to each other? It might not be obvious to state.

**Comment by IvanRenison** [comment]
I will try
As you sed the "obvious" way to state it gives the error that `pathGraph (length (ofPathGraphHom α G hom) + 1) →g G` is not the same that `pathGraph (n + 1) →g G`.
I was able to state it like this:
```lean
theorem Walk.of_to_PathGraphHom (G : SimpleGraph α) {n : ℕ} (hom : pathGraph (n + 1) →g G) :
    ∀ (i : Fin (n + 1)), hom i = (ofPathGraphHom α G hom).toPathGraphHom i := sorry
```
With two implicit casts in the second `i`
And like this:
```lean
theorem Walk.ofPathGraphHom_lenght (G : SimpleGraph α) {n : ℕ} (hom : pathGraph (n + 1) →g G) :
    (ofPathGraphHom α G hom).length = n := sorry

theorem Walk.of_to_PathGraphHom' (G : SimpleGraph α) {n : ℕ} (hom : pathGraph (n + 1) →g G) :
    ∀ (i : Fin (n + 1)),
      hom i =
        (ofPathGraphHom α G hom).toPathGraphHom ⟨i.val, by rw [ofPathGraphHom_lenght]; exact i.prop⟩
  := sorry
```
With a explicit cast
Witch one you think is better? (Or maybe you have a better one?)

**Comment by YaelDillies** [comment]
I think your second way is better (at least until we acquire `SimpleGraph.Iso.ofEq`. Note that for the equality the other way around you should use `Walk.copy`.

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 31]
```diff
@@ -260,4 +260,10 @@ theorem Walk.toPathGraphHom_bot (G : SimpleGraph α) {u v : α} (w : G.Walk u v)
 theorem Walk.toPathGraphHom_top (G : SimpleGraph α) {u v : α} (w : G.Walk u v) :
     (w.toPathGraphHom).toFun ⊤ = u := (w.toPathGraphHomAux).2.2
 
+theorem Walk.ofPathGraphHom_lenght (G : SimpleGraph α) {n : ℕ} (hom : pathGraph (n + 1) →g G) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean:263]:
```suggestion
theorem Walk.length_ofPathGraphHom {G : SimpleGraph α} {n : ℕ} (hom : pathGraph (n + 1) →g G) :
```

Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean:263]:
```suggestion
@[simp]
theorem Walk.ofPathGraphHom_lenght (G : SimpleGraph α) {n : ℕ} (hom : pathGraph (n + 1) →g G) :
```

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 32]
```diff
@@ -121,4 +122,149 @@ theorem pathGraph_two_eq_top : pathGraph 2 = ⊤ := by
...
+@[simps]
+protected def Hom.pathGraph {n m : ℕ} (hnm : n ≤ m) : pathGraph n →g pathGraph m where
+  toFun v := ⟨v.val, trans v.is_lt hnm⟩
+  map_rel' := by simp [pathGraph_adj]
+
+protected theorem Hom.pathGraph_val {n m : ℕ} (hnm : n ≤ m) (u : Fin n) :
+    (Hom.pathGraph hnm u).val = u.val := rfl
+
+
+/-- Convert a homomrfism from a pathGraph to a walk -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean:135]:
```suggestion
/-- Create a walk from a path graph homomorphism. -/
```

**Comment by Parcly-Taxel** [comment]
> I think your second way is better (at least until we acquire `SimpleGraph.Iso.ofEq`).

What is the statement of `SimpleGraph.Iso.ofEq`?

**Comment by IvanRenison** [comment]
Now I added the theorem for a walk using the one for a pathGraph homorphism

**Comment by YaelDillies** [comment]
Sorry, I don't have time to review this anymore. Maybe @kmill or @b-mehta will?

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 33]
```diff
@@ -122,4 +123,230 @@ theorem pathGraph_two_eq_top : pathGraph 2 = ⊤ := by
...
+  map_rel' := by simp [pathGraph_adj]
+
+protected theorem Hom.pathGraph_val {n m : ℕ} (hnm : n ≤ m) (u : Fin n) :
+    (Hom.pathGraph hnm u).val = u.val := rfl
+
+
+/-- Create a walk from a path graph homomorphism. -/
+def Walk.ofPathGraphHom (G : SimpleGraph α) {n : ℕ} (hom : pathGraph (n + 1) →g G) :
+    G.Walk (hom ⊤) (hom ⊥) := by
+  induction n with
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean:139]: This shouldn't be defined using the `induction` tactic. Also, I would rather the result be a `Walk` from the beginning to the end rather than the other way around.

To define this, you can make an auxiliary definition that creates a Walk from index `i` to the end, recursively (you probably need a `termination_by` to help it see that this is ok, or you could provide an additional length argument that decreases each iteration).

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 34]
```diff
@@ -122,4 +123,230 @@ theorem pathGraph_two_eq_top : pathGraph 2 = ⊤ := by
   ext u v
   fin_cases u <;> fin_cases v <;> simp [pathGraph, ← Fin.coe_covBy_iff, Nat.covBy_iff_succ_eq]
 
+/-- Hommorphism from smaller path graph to bigger path graph· -/
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean:126]:
```suggestion
/-- Homomorphism that includes a path graph as a prefix of another path graph. -/
```

**Review by kmill — COMMENTED** [review]
Hi Ivan, sorry your PR has been languishing. I had time to review some of it this morning, and these are the comments I was able to make so far.

One comment is that I think there are two PRs here, one for going back and forth between Walks and homomorphisms from pathGraphs, and the other being the way in which walks (of both types) interact with bicolorings.

**Comment by IvanRenison** [comment]
Hi @kmill, as this pull request has become big, and I guess that difficult to review because of that, maybe it will be better if I split it in smaller pull requests? So that it is easier to review
